US08877779B2
To a solution of ethyl (5-fluoronaphthalen-1-yl)acetate (5.96 g) in ethanol (50 mL) was added 1N sodium hydroxide (50 mL), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, the obtained residue was poured into water, and the mixture was washed with ethyl acetate. The aqueous layer was acidified with 1N hydrochloric acid, and extracted with chloroform, and the extract was washed with water and saturated brine, dried is over magnesium sulfate, and concentrated under reduced pressure to give (5-fluoronaphthalen-1-yl)acetic acid (4.34 g). The title compound was obtained according to the method of Example 103 and using (5-fluoronaphthalen-1-yl)acetic acid.

reactant | ethyl (5-fluoronaphthalen-1-yl)acetate | 5.96 g | FC1=C2C=CC=C(C2=CC=C1)CC(=O)OCC | C14H13FO2
reactant | sodium hydroxide | 1N, 50 mL | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (5-fluoronaphthalen-1-yl)acetic acid | 4.34 g | FC1=C2C=CC=C(C2=CC=C1)CC(=O)O | C12H9FO2
